US07414049B2
b) (S)-3-Amino-5-(2-benzyloxy-ethyl)-1-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the [(S)-5-(2-benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded the title compound as a light yellow foam; MS (m/e): 394 (M+H)+.

reactant | [(S)-5-(2-benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)CCOCC2=CC=CC=C2)=O | C25H30F3N3O4
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(2-benzyloxy-ethyl)-1-(2,2,2-trifluoro-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride | Cl.N[C@H]1CN(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)CCOCC2=CC=CC=C2 | InChI=1S/C20H22F3N3O2.ClH/c21-20(22,23)14-26-18-9-5-4-8-17(18)25(12-16(24)19(26)27)10-11-28-13-15-6-2-1-3-7-15;/h1-9,16H,10-14,24H2;1H/t16-;/m0./s1
